US09085555B2
C. (1R,3S,5R)-2-[2-(3-Acetyl-pyrazolo[3,4-b]pyridin-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid allyl ester
To a solution of (1R,3S,5R)-2-azabicyclo[3.1.0]hexane-2,3-dicarboxylic acid 3-allyl ester hydrochloride (1.03 g, 6.43 mmol), (3-acetyl-pyrazolo[3,4-b]pyridin-1-yl)acetic acid (prepared as described in Part A, 1.3 g, 5.93 mmol) and HBTU (2.70 g, 7.12 mmol) in DMF (19.7 mL) was added DIPEA (3.11 mL, 17.8 mmol). The reaction mixture was stirred for 16 h at RT. DMF was evaporated. The residue was poured into NH4Cl (saturated aqueous solution) and extracted with EtOAc (3×50 mL). The organic phases were combined, dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 0:10). Rf, TLC (EtOAc)=0.6; MS (LCMS): 369.0 [M+H]+, 391.0 [MH+Na]+; tR (HPLC conditions k): 2.78 min.

reactant | (1R,3S,5R)-2-azabicyclo[3.1.0]hexane-2,3-dicarboxylic acid 3-allyl ester hydrochloride | 6.43 mmol, 1.03 g | Cl.C(C=C)OC(=O)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)O
reactant | (3-acetyl-pyrazolo[3,4-b]pyridin-1-yl)acetic acid | 5.93 mmol, 1.3 g | C(C)(=O)C1=NN(C2=NC=CC=C21)CC(=O)O | C10H9N3O3
reactant | HBTU | 7.12 mmol, 2.70 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 17.8 mmol, 3.11 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 19.7 mL | CN(C)C=O | C3H7NO
product | (1R,3S,5R)-2-[2-(3-Acetyl-pyrazolo[3,4-b]pyridin-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid allyl ester | C(C=C)OC(=O)[C@H]1N([C@@H]2C[C@@H]2C1)C(CN1N=C(C=2C1=NC=CC2)C(C)=O)=O | C19H20N4O4
